US04541942
1,2-Epoxyhexadecane-Dodecylphenol Sulfide Borate
Approximately 60 g of 1,2-epoxyhexadeacane (obtained from Union Carbide Co.), 135 g of 50% dodecylphenol sulfide (made by reacting 3 moles of dodecylphenol with 2 moles of sulfur dichloride at 100° to 150° C. for 6 hours with agitation followed by vacuum topping to remove residual HCl) in 100" solvent paraffinic neutral lubricating diluent oil, 100 g of toluene solvent and 20 g of boric acid were charged to a reactor equipped with agitator, heater, Dean-Start tube with condenser and provision for maintaining an inert nitrogen atmosphere. The reactor contents were heated up to 170° C. over a period of 6 hours until water evolution ceased. The solvent was removed by distillation under reduced pressure and the product was then filtered through diatomaceous earth.

reactant | dodecylphenol sulfide | 3 moles, 135 g | C(CCCCCCCCCCC)C12C(C=CC=C1)(O)S2 | C18H30OS
reactant | boric acid | 20 g | B(O)(O)O | BH3O3
reactant | water | O | H2O
solvent | toluene | 100 g | C1(=CC=CC=C1)C | C7H8
product | 1,2-Epoxyhexadecane Dodecylphenol Sulfide Borate | O1CC1CCCCCCCCCCCCCC.B(O)(O)O.C(CCCCCCCCCCC)C12C(C=CC=C1)(O)S2 | InChI=1S/C18H30OS.C16H32O.BH3O3/c1-2-3-4-5-6-7-8-9-10-11-14-17-15-12-13-16-18(17,19)20-17;1-2-3-4-5-6-7-8-9-10-11-12-13-14-16-15-17-16;2-1(3)4/h12-13,15-16,19H,2-11,14H2,1H3;16H,2-15H2,1H3;2-4H
